* AD8422 SPICE Macro-model
* Description: Amplifier
* Generic Desc: 36V Bipolar Low Power, Rail to Rail Output, High Performance In-Amp
* Developed by: ADI - LPG
*
* Revision History:
* 1.0 (05/2013) - OQ (Initial Rev)
* 2.0 (1/2015) - SH (Added missing .ENDS statement, improved compatibility, added parameters to model, organized netlist)
* Copyright 2015 by Analog Devices.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*   Temperature effects
*   PSRR
*
* Parameters Modeled Include:
*   Gain error, Vos, Ibias
*   Bandwidth
*   Voltage and current noise with 1/f noise
*   CMRR vs frequency
*   Supply current incl preamp and output load currents
*   Output clamp vs load
*   Input range and internal voltage limitations
*   Slew Rate
*   Pulse response vs cap load
*   Input impedance
*
* Typical Specifications from ±15V Table Used in Model
*
* END Notes
*
* Node Assignments
*                inverting input
*                |   RG
*                |   |    RG
*                |   |    |  non_inverting input
*                |   |    |    |    negative supply
*                |   |    |    |     |    ref
*                |   |    |    |     |    |   output
*                |   |    |    |     |    |    |     positive supply
*                |   |    |    |     |    |    |     |
.SUBCKT AD8422  IN-  RG-  RG+  IN+  -Vs   REF  VOUT  +Vs   
*** INPUT STAGE ***
FIBIAS1 IN- 0 POLY(1) V21 600.0E-12 9.0E-5
H3 4 IN- V24 6.645
G4 0 5 4 0 2.64E-3
R10 5 0 378.788
D7 5 9 D
D8 10 5 D
V7 10 VNEGx 1.24
V8 VPOSx 9 1.24
E8 22 0 5 0 1
FIBIAS2 IN+ 0 POLY(1) V23 400.0E-12 9.0E-5
VOSI 7 IN+ -25.0E-6
G5 0 8 7 0 2.64E-3
R11 8 0 378.788
D9 8 9 D
D10 10 8 D
E9 15 0 8 0 1
G1 IN+ 0 POLY(2) (IN+, VMID) (IN+, IN-) 0 2.5E-12 5.0E-12
G2 IN- 0 POLY(2) (IN-, VMID) (IN-, IN+) 0 2.5E-12 5.0E-12
CCM1 IN+ 0 1.0E-12
CCM2 IN- 0 1.0E-12
CDIFF IN+ IN- 1.5E-12
*
*** PREAMPLIFIER STAGE ***
GN1 Pos_Fdbk 16 15 16 778.8E-6
VSH1 RG+ 16 -0.474
C4 RG+ 0 3.688E-12
R6 RG+ 17 9802.94
VCS2 noninverting_out 17 0
I1 VBIAS Pos_Fdbk 20.0E-6
R23 Pos_Fdbk VBIAS 1E9
G7 0 18 VBIAS Pos_Fdbk 1
R8 18 0 10E9
C2 noninverting_out Pos_Fdbk 10.19E-12
R25 19 18 100
D5 19 20 D
D6 21 19 D
V5 21 VNEGx 0.19
V6 VPOSx 20 0.19
GN2 Inv_Fdbk 23 22 23 778.8E-6
VSH2 RG- 23 -0.474
C3 RG- 0 3.692E-12
R5 RG- 24 9802.94
VCS1 Inverting_Out 24 0
I2 VBIAS Inv_Fdbk 20.0E-6
R18 VBIAS Inv_Fdbk 1E9
G6 0 25 VBIAS Inv_Fdbk 1
R7 25 0 10E9
C1 Inverting_Out Inv_Fdbk 10.31E-12
R24 26 25 100
D3 26 20 D
D4 21 26 D
V1 VBIAS +Vs 20
D40 Inv_Fdbk VBIAS D
D41 Pos_Fdbk VBIAS D
D42 VBIAS Inv_Fdbk D
D43 VBIAS Pos_Fdbk D
*
*** SUBTRACTOR STAGE ***
E4 Inverting_Out 0 26 0 1
E5 noninverting_out 0 19 0 1
R1 31 sub_neg 10000.0
R2 sub_neg 24 9999.05
R3 sub_pos 17 9998.85
R4 REF sub_pos 10000.0
VCS3 sub_out 31 0
G8 0 sub_out sub_pos sub_neg 1E3
R9 sub_out 0 10E6
D13 REF 38 D
D14 39 REF D
V13 39 VNEGx 0.3
V14 VPOSx 38 0.3
D15 sub_pos 36 D
D16 37 sub_pos D
V15 37 VNEGx 0.05
V16 VPOSx 36 1.05
R22 sub_out_cl sub_out 100
D1 sub_out_cl 45 D
D2 46 sub_out_cl D
H4 VX sub_out_cl V25 71.74
*
*** SLEW RATE AND OUTPUT STAGE ***
G11 0 VZ VX VY 1e-3
R26 VZ 0 100E6
D21 40 VZ DSLEWP
D22 40 0 DSLEWN
G12 0 VY VZ 0 40.0E-6
C7 VY 0 1E-9
R30 VY 0 10e9
G9 0 41 VY 42 1
R12 41 0 1e10
C5 41 0 56.15E-9
G10 0 42 41 0 1.0E-3
R17 42 0 1000.0
C6 42 0 87.03E-12
R27 43 42 0.1
D11 43 45 D
D12 46 43 D
H1 VPOSx 45 POLY(1) VSRC 0.15 0 3E3
H2 46 VNEGx POLY(1) VSNK 0.15 0 3E3
VOSO VOUT 43 157.0E-6
*
*** NOISE ***
V24 60 0 0
R19 60 0 .0166
D17 61 60 DN
V18 61 0 0.2
V25 64 0 0
R20 64 0 .0166
D19 65 64 DN
V20 65 0 0.209
V21 70 0 0
R28 70 0 .0166
D38 71 70 DIN
V22 71 0 0.2
V23 72 0 0
R29 72 0 .0166
D39 73 72 DIN
V27 73 0 0.2
*
*** SUPPLY CURRENT AND BIASING ***
GSUP +Vs -Vs POLY(1) (+Vs,-Vs) 195.2E-6 1.0E-6
FSUP1 56 0 VOSO -1
D24 90 +Vs DZ
D25 -Vs 52 DZ
D20 90 95 D
VSRC 95 56 0
D23 55 52 D
VSNK 56 55 0
FSUP2 57 0 VCS1 1
D26 90 57 D
D27 57 52 D
FSUP3 58 0 VCS2 1
D30 90 58 D
D31 58 52 D
FSUP4 59 0 VCS3 1
D34 90 59 D
D35 59 52 D
E10 VPOSx 0 +Vs 0 1
E11 VNEGx 0 -Vs 0 1
EMID VMID 0 POLY(2) (+Vs, 0) (-Vs, 0) 0 0.5 0.5
*
*
.MODEL D D(IS=1e-15 N=0.1 RS=1e-3)
.MODEL DN D(IS=1e-15 KF=3.142E-7)
.MODEL DIN D(IS=1e-15 KF=6.221E-6)
.MODEL DZ D(IS=1e-15 BV=50 RS=1)
.MODEL DSLEWP D(IS=1e-15 BV=19.5 RS=0.1)
.MODEL DSLEWN D(IS=1e-15 BV=19.5 RS=0.1)
*
*
.ENDS AD8422
*$
